US06110952
A mixture of 3-methyl-2-nitro-4-trifluoroacetamidophenol (4.81 g, 18.21 mmol) and 10% palladium-on-carbon (0.45 g) in methanol (100 mL) is shaken under an atmosphere of hydrogen (50 psi) for three hours. The mixture is filtered through Celite and concentrated under reduced pressure to yield 4.25 g of 2-amino-3-methyl-4-trifluoroacetamidophenol as a red solid.

reactant | 3-methyl-2-nitro-4-trifluoroacetamidophenol | 18.21 mmol, 4.81 g | CC=1C(=C(C=CC1NC(C(F)(F)F)=O)O)[N+](=O)[O-] | C9H7F3N2O4
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium-on-carbon | 0.45 g | [Pd] | Pd
product | 2-amino-3-methyl-4-trifluoroacetamidophenol | 4.25 g | NC1=C(C=CC(=C1C)NC(C(F)(F)F)=O)O | C9H9F3N2O2
